US08053457B2
3-(2-Aminomethyl-5-chloro-phenylamino)-propan-1-ol
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 3-amino-propanol analogously to the preparation of Intermediate 113.1. colorless oil; ES-MS: M−=213.1; HPLC: AtRet=2.27 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-amino-propanol | NCCCO | C3H9NO
product | 3-(2-Aminomethyl-5-chloro-phenylamino)-propan-1-ol | NCC1=C(C=C(C=C1)Cl)NCCCO | C10H15ClN2O
